US05792764
3-Octylamino-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide
A mixture of 3-methylsulfanyl-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide monohydrate (0.5 g), octylamine (0.5 mL) and m-chlorotoluene (3 mL) was refluxed for 2-3 h (until completion of the reaction; t.l.c.). Most of the solvents were removed by distillation and the residue was dispersed in a mixture of water (30 mL) and methanol (30 mL) and supplemented with NaOH 10% w/v in water (2 mL). The mixture was treated with charcoal, filtered, and the filtrate was adjusted to pH 6 with 1N HCl. The resulting precipitate was collected by filtration, washed with water and dried (yield: 0.29 g); m.p. 176°-179° C. (Compound 13).

reactant | 3-methylsulfanyl-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide monohydrate | 0.5 g | O.CSC1=NS(C2=C(N1)C=CN=C2)(=O)=O
reactant | octylamine | 0.5 mL | C(CCCCCCC)N | C8H19N
reactant | m-chlorotoluene | 3 mL | ClC=1C=C(C=CC1)C | C7H7Cl
product | 3-Octylamino-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide | C(CCCCCCC)NC1=NS(C2=C(N1)C=CN=C2)(=O)=O | C14H22N4O2S
